US05610144
The operation is carried out in a fashion similar to that described in Example 41, but starting from 1.3 g of 2-trimethylsilylethyl (2R,4R)-3-{3-[2-(4-tert-butoxycarbonyl-2-phenyl-3-thiazolidinyl)-2-oxoethyl]ureido}benzoate and 4.5 cm3 of a molar tetrabutylammonium fluoride solution. The crude product is purified by chromatography on silica [eluent: ethyl acetate/methanol (95/5 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. The solid residue is dissolved in 4.0 cm3 of 0.5N aqueous sodium hydroxide solution. The solution is filtered, and acidified with 2.1 cm3 of a 1N aqueous hydrochloric acid solution. The insoluble product is separated by filtration, washed with 2 times 5 cm3 of water and dried in air. 0.33 g of (2R,4R)-3-{3-[2-(4-tert-butoxycarbonyl-2-phenyl-3-thiazolidinyl)-2-oxoethyl]ureido}benzoic acid, melting at 134° C., is thus obtained. ([α]D20 =+85°±3° (C=0.40%; CHCl3)) [proton NMR (250 MHz, DMSO D6, δ in ppm), 2 rotamers at room temperature, peak coalescence at 120° C., characteristic chemical shifts at 120° C.: 7.3 to 7.7 (m, 8H, aromatic); 8.0 (bs, 1H, N--C6H4 --C in position 2). Infrared spectrum (KBr), characteristic bands in cm-1 : 3380, 2980, 2930, 2600, 1690, 1650, 1610, 1590, 1555, 1490, 1370, 1235, 1150, 760, 730, 700, 680].

reactant | 2-trimethylsilylethyl (2R,4R)-3-{3-[2-(4-tert-butoxycarbonyl-2-phenyl-3-thiazolidinyl)-2-oxoethyl]ureido}benzoate | 1.3 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)=O)=O | C29H39N3O6SSi
reactant | tetrabutylammonium fluoride | 4.5 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2R,4R)-3-{3-[2-(4-tert-butoxycarbonyl-2-phenyl-3-thiazolidinyl)-2-oxoethyl]ureido}benzoic acid | 0.33 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=CC=CC=C1)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C24H27N3O6S
